US07691882B2
5-(3-(4-(4-Chloro-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To 4-(5-(6-amino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol (20.0 mg, 0.07 mmol) described in Manufacturing Example 177-1-1 were added tetrahydrofuran (3 mL) and a 5 N sodium hydroxide aqueous solution (14.9 μL, 0.07 mmol), which was dissolved by irradiating ultrasonic wave for 1 minute. The reaction solution was concentrated under a reduced pressure, which gave a white solid. To a mixture of the solid obtained above and N,N-dimethylformamide (1 mL) was added an N,N-dimethylformamide (1 mL) solution of 4-chloro-2-chloromethyl-pyridine (13.3 mg, 0.08 mmol) described in Manufacturing Example 51-1-2, which was stirred for 1 hour at 60° C. The reaction mixture was cooled to room temperature and then partitioned into water and ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (7.2 mg, 25%).

reactant | 4-(5-(6-amino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol | 0.07 mmol, 20.0 mg | NC1=CC=C(C=N1)C1=CC(=NO1)CC1=CC=C(C=C1)O | C15H13N3O2
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 0.07 mmol, 5 N, 14.9 μL | [OH-].[Na+]
reactant | 4-chloro-2-chloromethyl-pyridine | 0.08 mmol, 13.3 mg | ClC1=CC(=NC=C1)CCl | C6H5Cl2N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 5-(3-(4-(4-Chloro-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 7.2 mg, 25% | ClC1=CC(=NC=C1)COC1=CC=C(CC2=NOC(=C2)C=2C=CC(=NC2)N)C=C1 | C21H17ClN4O2
